US08536168B2
{6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-yl}-carbamic acid methyl ester
6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-ylamine (80 mg, 0.202 mmol), CH2Cl2 (0.5 mL), triethylamine (37 μL, 0.227 mmol), and methyl chloroformate (17 μL, 0.222 mmol) are combined and stirred at room temperature. Reaction complete in less than 15 minutes. Concentrate reaction mixture in vacuo. The residue is purified by flash chromatography on silica gel (MeOH/CH2Cl2) to afford the title compound (39 mg, 42%).

reactant | 6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-ylamine | 0.202 mmol, 80 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=N1)N | C24H24N6
reactant | triethylamine | 0.227 mmol, 37 μL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.222 mmol, 17 μL | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | {6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-yl}-carbamic acid methyl ester | 39 mg, 42% | COC(NC=1C=NC(=CC1)N1CCN(CC1)C1=NN=C(C2=CC=CC=C12)CC1=CC=CC=C1)=O | C26H26N6O2
